US07790714B2
(S)-2-tert-Butoxycarbonylamino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl}-propionic acid methyl ester (9.5 mmol) was dissolved in 60 mL THF-DCM (1:1) and methanol (14.2 mmol) and resin-bound triphenylphosphine (14.2 mmol) was added. The mixture was cooled to 0° C. and DIAD (14.2 mmol) added. The mixture was agitated for 10 min at 0° C. and the mixture was slowly allowed to warm up to r.t. and agitated for 16 h. The reaction mixture was filtered, concentrated and the residue purified over silica-gel hexanes ethyl acetate (8-2) to afford (S)-2-tert-Butoxycarbonylamino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-4-methyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl}-propionic acid methyl ester. (4.9 g). 1H NMR (400 MHz, CDCl3): 7.51 (d, 1H), 7.44 (d, 1H), 7.31 (m, 2H), 7.25 (m, 1H), 6.96-6.88 (m, 3H), 6.74 (m, 2H), 5.63 (s, 1H), 5.03 (m, 1H), 4.98 (s, 2 h), 4.58 (m, 1 h), 3.70 (s, 3H), 3.41 (s, 3H), 3.05 (m, 2H), 1.28 (s, 9H).

reactant | (S)-2-tert-Butoxycarbonylamino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl}-propionic acid methyl ester | 9.5 mmol | COC([C@H](CC=1C=CC2=C(NC([C@@H](O2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)=O)C1)NC(=O)OC(C)(C)C)=O | C30H30Cl2N2O7
reactant | methanol | 14.2 mmol | CO | CH4O
reactant | triphenylphosphine | 14.2 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 14.2 mmol | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF DCM | 60 mL | C1CCOC1.C(Cl)Cl
product | (S)-2-tert-Butoxycarbonylamino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-4-methyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl}-propionic acid methyl ester | COC([C@H](CC=1C=CC2=C(N(C([C@@H](O2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)=O)C)C1)NC(=O)OC(C)(C)C)=O | C31H32Cl2N2O7
